US04783479
cis-2-Oxobicyclo[4.2.0]octane-1-acetic acid ethyl ester (3.7 g, 18.87 mmol) prepared by the process of Ziegler et al, J. Am. Chem. Soc., 104, 7181 (1982) and 3-chloro-2-methylphenylhydrazine (2.95 g, 18.87 mmol) were dissolved in 50 mL of toluene and refluxed under nitrogen with azeotropic removal of water for 48 hours. The toluene was removed and 13 mL of acetic acid and 2.78 mL (22.64 mmol) of borontrifluoride etherate was added to the residue. The reaction mixture was then allowed to reflux under nitrogen for 30 minutes. The reaction mixture was then poured into 50 mL of water and extracted with 4×30 mL of ether. The combined organic layers were washed with 4×30 mL of 1N HCl, 1×30 mL of 1N NaOH, and 1×30 mL of brine. The ether layers were dried over MgSO4 and concentrated in vacuo affording 5.7 g of crude product. Flash chromatography (70 mm column, 5% ethyl acetate/petroleum ether eluant) afforded 2.7 g (45%) of cis-7-chloro-1,2,2a,3,4,9-hexahydro-8-methyl-9bH-cyclobuta[a]carbazole-9b-acetic acid ethyl ester.

reactant | cis-2-Oxobicyclo[4.2.0]octane-1-acetic acid ethyl ester | 18.87 mmol, 3.7 g | C(C)OC(C[C@@]12C(CCC[C@H]2CC1)=O)=O | C12H18O3
reactant | 3-chloro-2-methylphenylhydrazine | 18.87 mmol, 2.95 g | ClC=1C(=C(C=CC1)NN)C | C7H9ClN2
reactant | borontrifluoride etherate | 22.64 mmol, 2.78 mL | B(F)(F)F.CCOCC
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
product | cis-7-chloro-1,2,2a,3,4,9-hexahydro-8-methyl-9bH-cyclobuta[a]carbazole-9b-acetic acid ethyl ester | 2.7 g, 45% | C(C)OC(C[C@]12[C@H](CCC=3C4=CC=C(C(=C4NC13)C)Cl)CC2)=O | C19H22ClNO2
